US06964965B2
A 50 mL round bottom flask equipped with a magnetic stir bar was charged with 5-(3-amino-5,6,7,8-tetrahydronaphthalen-2-yl)-3,6-diethyl-N-(1-ethylpropyl)pyrazin-2-amine (118 mg, 0.32 mmol), con. HCl (3.41 mL) and cooled with an ice bath for 30 minutes. The solution was yellow. A cold solution of NaNO2 (22.4 mg, 0.325 mmol) in H2O (0.64 mL) was added and the mixture stirred at 0° C. for 30 minutes. A light precipitate was observed. A cold CuCl (38.2 mg, 0.386 mmol) solution in con. HCl (0.853 mL) was added and the mixture continued to stir at 0° C. for 20 minutes. The reaction turned dark. The cooling bath was removed, and after stirring at ambient temperature for 2 hours the color lightened and gas evolution was observed. The reaction was then heated to 60° C. for 20 minutes. More gas evolution was observed. After heating the reaction became clumpy. It was cooled with an ice bath and basified with aq. NaOH. The reaction turned blue/green in color. The now basic reaction mixture was diluted with water, extracted three times with CH2Cl2, the organics were combined, dried with Na2SO4, filtered and concentrated to 110 mg of a crude brown oil. PREP TLC followed by silica gel chromatography (4.5 g) using toluene) gave 4.45 mg (4%) of 5-(3-chloro-5,6,7,8-tetrahydronaphthalen-2-yl)-3,6-diethyl-N-(1-ethylpropyl)pyrazin-2-amine as a yellow oil. Rf 0.16 (toluene). OAMS supporting ions at: ESI+386.1. HRMS (ESI) calcd for C23H32N3CL+H1 386.2363, found 386.2358.

reactant | 5-(3-amino-5,6,7,8-tetrahydronaphthalen-2-yl)-3,6-diethyl-N-(1-ethylpropyl)pyrazin-2-amine | 0.32 mmol, 118 mg | NC=1C(=CC=2CCCCC2C1)C=1N=C(C(=NC1CC)NC(CC)CC)CC | C23H34N4
reactant | HCl | 3.41 mL | Cl | ClH
reactant | NaNO2 | 0.325 mmol, 22.4 mg | N(=O)[O-].[Na+]
reactant | HCl | 0.853 mL | Cl | ClH
solvent | H2O | 0.64 mL | O | H2O
catalyst | CuCl | 0.386 mmol, 38.2 mg | Cl[Cu]
product | 5-(3-chloro-5,6,7,8-tetrahydronaphthalen-2-yl)-3,6-diethyl-N-(1-ethylpropyl)pyrazin-2-amine | 4.45 mg, 4% | ClC=1C(=CC=2CCCCC2C1)C=1N=C(C(=NC1CC)NC(CC)CC)CC | C23H32ClN3
